# CMOS inverter DC Sweep

.analysis dc device=vdc:vin param=vdc start=0 stop=3V 

vdc:vdd 1 gnd vdc=3V 
vdc:vin in gnd vdc=1 

x1 in out 1 gnd inverter

.subckt inverter in out 1 gnd
mosekv:m1 out in 1 1 type = p
mosekv:m2 out in gnd gnd type = n
.ends

.plot dc out
.save dc out

.end


