# CMOS inverter DC Sweep

.options sparse=0 maxdelta=5. maxiter=20

.analysis dc device=vdc:vin param=vdc start=0 stop=3.V num=200

vdc:vdd 1 gnd vdc=3.V 
vdc:vin in gnd vdc=1 

x1 in out 1 gnd inverter

.subckt inverter in out 1 gnd
bsim3_i:m1 out in 1 1 type = p
#res:r1 out gnd r=100k
bsim3_i:m2 out in gnd gnd type = n
.ends

.plot dc out
.save dc out

.end


